US06365603B1
N-Propyl-6-(N-[5-bromo-2propoxybenzyl]-N-ethylamino)pyridazine-3-carboxamide
6-(N-[5-Bromo-2-propoxybenzyl]-N-ethylamino)pyridazine-3-carboxylic acid (example 18)-(500 mg, 1.27 mmol) was dissolved in dichloromethane (50 ml), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (EDAC),(365mg, 2.07 mmol), dimethylaminopyridine, (DMAP) (465 mg, 3.81 mmol) and propanesulfonamide (190 mg, 1.54 mmol) was added. The mixture was stirred at ambient temperature under argon overnight, after which TLC (5% methanol/dichloromethane) suggested the reaction was complete. The reaction mixture was loaded directly onto a MPLC column (silica) and the title compound obtained by elution 5% methanol/dichloromethane as a foam (380 mg, 60%).

reactant | 6-(N-[5-Bromo-2-propoxybenzyl]-N-ethylamino)pyridazine-3-carboxylic acid | BrC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)O)C1)OCCC | C17H20BrN3O3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | propanesulfonamide | 1.54 mmol, 190 mg | C(CC)S(=O)(=O)N | C3H9NO2S
reactant | methanol dichloromethane | CO.ClCCl
reactant | methanol dichloromethane | 380 mg | CO.ClCCl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Propyl-6-(N-[5-bromo-2propoxybenzyl]-N-ethylamino)pyridazine-3-carboxamide | C(CC)NC(=O)C=1N=NC(=CC1)N(CC)CC1=C(C=CC(=C1)Br)OCCC | C20H27BrN4O2
